US06124278
p-Toluenesulfonic acid monohydrate (3.61 g, 19.0 mmol) was dried by azeotropic distillation in a chloroform solution (100 mL). The remaining solution (50 mL) was cooled, 9.14 g (66.2 mmol) sesamol, 10.01 g (57 mmol) N--(hydroxymethyl)-phthalimide, and 100 mL chloroform were added, and the resulting green solution was refluxed overnight. The black reaction mixture was cooled to ambient, diluted to 500 mL with chloroform, and washed three times with saturated sodium bicarbonate. The pooled aqueous phases were back extracted with ethyl acetate, which was combined with the chloroform solution and dried over sodium sulfate. The residue that resulted from evaporation of solvents on a rotary evaporator was taken up in dichloromethane and filtered through a short column of silica gel. A dichloromethane rinse of the silica gel was combined with the eluent and evaporated to yield 9.3 g of N--(2-hydroxy-4,5-methylenedioxybenzyl)-phthalimide as a yellow solid (55%), which exhibited one spot on TLC (Rf =0.6; dichloro-methane). IR: 1768 and 1699 cm-1. 1HNMR (200 MHz): δ 7.81-7.90 (2H, m); 7.70-7.79 (2H, m); 7.76 (1H, s); 6.86 (1H, s); 6.52 (1H, s); 5.88 (2H, s); and 4.73 ppm (2H, s).

reactant | p-Toluenesulfonic acid monohydrate | 19.0 mmol, 3.61 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sesamol | 66.2 mmol, 9.14 g | C1OC2=C(O1)C=C(C=C2)O | C7H6O3
reactant | N--(hydroxymethyl)-phthalimide | 57 mmol, 10.01 g | OCN1C(C=2C(C1=O)=CC=CC2)=O | C9H7NO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | N--(2-hydroxy-4,5-methylenedioxybenzyl)-phthalimide | 9.3 g, 55% | OC1=C(CN2C(C=3C(C2=O)=CC=CC3)=O)C=C3C(=C1)OCO3 | C16H11NO5
